US07893056B2
To a solution of 1-phenyl-N-{[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine (3.3777 g, 11.40 mmol) in THF (114 mL) was added N,N-diisopropylethylamine (3 mL, 17.22 mmol). To the solution was added methyl chloro(oxo)acetate (1.15 mL, 12.50 mmol) dropwise via syringe, and the mixture was stirred for 3 h. The solvent was removed in vacuo, and the residue was dissolved in EtOAc (200 mL) and washed with sat. aq. NaHCO3 followed by water. The organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to afford crude methyl oxo((phenylmethyl){[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}amino)acetate (4.6881 g, >100% crude yield) as a yellow oil. LCMS: (M+H)+: 383.1.

reactant | 1-phenyl-N-{[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}methanamine | 11.40 mmol, 3.3777 g | C1(=CC=CC=C1)CNC[C@H]1N(CCOC1)CC1=CC=CC=C1 | C19H24N2O
reactant | N,N-diisopropylethylamine | 17.22 mmol, 3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl chloro(oxo)acetate | 12.50 mmol, 1.15 mL | ClC(C(=O)OC)=O | C3H3ClO3
solvent | THF | 114 mL | C1CCOC1 | C4H8O
product | methyl oxo((phenylmethyl){[(3R)-4-(phenylmethyl)-3-morpholinyl]methyl}amino)acetate | 4.6881 g | O=C(C(=O)OC)N(C[C@H]1N(CCOC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H26N2O4
